US06624158B2
6-[(2,2-Diphenylethyl)amino]-9-[(2R,3R,4S,5R)-5-(2-ethyl-2H-tetrazol-5-yl)-3,4-dihydroxytetrahydro-2-furanyl]-N-[2-(1-piperidinyl)ethyl]-9H-purine-2-carboxamide
A solution of (2R,3R,4R,5R)-4-(acetyloxy)-2-[6-[(2,2-diphenylethyl)amino]-2-({[2-(1-piperidinyl)ethyl]amino}carbonyl)-9H-purin-9-yl]-5-(2-ethyl-2H-tetrazol-5-yl)tetrahydro-3-furanyl acetate (Preparation 27) (230 mg, 0.31 mmol) and sodium carbonate (130 mg, 1.23 mmol) in methanol (15 ml) and water (1.5 ml) was stirred at room temperature overnight. The solvent was evaporated under reduced pressure and the residue was partioned between ethyl acetate (50 ml) and water (10 ml). The organic layer was washed with brine (10 ml), dried (anhydrous sodium sulphate) and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel eluting with a gradient system of dichloromethane:methanol:0.88 concentrated aqueous ammonia (95:5:0.5 by volume) gradually changing to dichloromethane:methanol:0.88 concentrated aqueous ammonia (93:7:0.7 by volume). Product containing fractions were evaporated and the resulting solid triturated with ether, filtered and dried to afford the title compound as a white powder (158 mg).

reactant | (2R,3R,4R,5R)-4-(acetyloxy)-2-[6-[(2,2-diphenylethyl)amino]-2-({[2-(1-piperidinyl)ethyl]amino}carbonyl)-9H-purin-9-yl]-5-(2-ethyl-2H-tetrazol-5-yl)tetrahydro-3-furanyl acetate | 0.31 mmol, 230 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)C=1N=NN(N1)CC)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)NCCN1CCCCC1 | C38H45N11O6
reactant | sodium carbonate | 1.23 mmol, 130 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 15 ml | CO | CH4O
solvent | water | 1.5 ml | O | H2O
product | 6-[(2,2-Diphenylethyl)amino]-9-[(2R,3R,4S,5R)-5-(2-ethyl-2H-tetrazol-5-yl)-3,4-dihydroxytetrahydro-2-furanyl]-N-[2-(1-piperidinyl)ethyl]-9H-purine-2-carboxamide | 158 mg | C1(=CC=CC=C1)C(CNC1=C2N=CN(C2=NC(=N1)C(=O)NCCN1CCCCC1)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)C=1N=NN(N1)CC)C1=CC=CC=C1 | C34H41N11O4
